US06812237B2
To a solution of 5-methylfurfural (18 mL, 0.18 mmol) in CCl4 (400 mL) is added pulverized N-bromosuccinimide (71.1 g, 0.40 mmol), and the solution is subjected to sun lamp irradiation. After 15 minutes, the solution begins to reflux vigorously, and then settles down after another 2-3 minutes. After an additional 10 minutes, the dark mixture is cooled to room temperature, and allyl alcohol (200 mL) is added. After 2 hours, the solution is evaporated, and the residue is diluted with Et2O, and washed with saturated NaHCO3 (100 mL), water (100 mL) and brine (100 mL), dried over MgSO4 and evaporated. The residue is chromatographed (silica, 4% EtOAc/hexane) to yield allyl 5-(bromomethyl)-2-furoate, as a yellow oil.

reactant | 5-methylfurfural | 0.18 mmol, 18 mL | CC1=CC=C(C=O)O1 | C6H6O2
reactant | N-bromosuccinimide | 0.40 mmol, 71.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | allyl alcohol | 200 mL | C(C=C)O | C3H6O
solvent | CCl4 | 400 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | allyl 5-(bromomethyl)-2-furoate | BrCC1=CC=C(O1)C(=O)OCC=C | C9H9BrO3
